US07960310B2
A solution of 2,2,3-trifluoro-indanone (282 mg, 1.5 mmol), titanium isopropoxide (0.886 ml, 2.99 mmol) and ammonia (2M in EtOH, 2.5 ml) in EtOH was stirred for 5 hours. The mixture was cooled to 0° C. and NaBH4 (85 mg, 2.25 mmol) added. After stirring for 2 hours the mixture was left at room temperature overnight, then poured onto NH4OH (25%, 10 ml) and extracted with EtOAc. The organic phase was washed with water, dried, and evaporated to yield the crude product (205 mg) as a brown oil. This was shaken between ether and HCl (2M aq.), basified with NaOH (2M) and extracted into ether. Evaporation yielded 1-amino-2,2,3-trifluoro-indane (90 mg) as an oil.

reactant | 2,2,3-trifluoro-indanone | 1.5 mmol, 282 mg | FC1(C(C2=CC=CC=C2C1F)=O)F | C9H5F3O
reactant | ammonia | 2M, 2.5 ml | N | H3N
reactant | NaBH4 | 2.25 mmol, 85 mg | [BH4-].[Na+]
reactant | HCl | 2M | Cl | ClH
reactant | NaOH | 2M | [OH-].[Na+]
solvent | EtOH | CCO | C2H6O
catalyst | titanium isopropoxide | 2.99 mmol, 0.886 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | ether | CCOCC | C4H10O
product | 1-amino-2,2,3-trifluoro-indane | 90 mg | NC1C(C(C2=CC=CC=C12)F)(F)F | C9H8F3N
